US05861401
5-Dimethylamino-N-(6-chloro-3-pyridazinyl)-1-naphthalenesulphonamide (0.72 g) was dissolved in N,N-dimethylformamide and sodium thiomethoxide (0.42 g) added. The mixture was heated to 100° C. for 6 hours, then cooled and 7% aqueous citric acid solution (15 ml) was added with stirring. The solid formed was collected by filtration and washed with water (10 ml). The solid was then purified by chromatography on silica gel (20 g) under reduced pressure, eluting with an ethyl acetate/toluene gradient, to give 5-dimethylamino-N-(6-methylthio-3-pyridazinyl)-1-naphthalenesulphonamide (0.28 g), m.p. 188°-190° C.; mass spectrum (+ve CI): 375 (M+H)+.

reactant | 5-Dimethylamino-N-(6-chloro-3-pyridazinyl)-1-naphthalenesulphonamide | 0.72 g | CN(C1=C2C=CC=C(C2=CC=C1)S(=O)(=O)NC=1N=NC(=CC1)Cl)C | C16H15ClN4O2S
reactant | sodium thiomethoxide | 0.42 g | C[S-].[Na+]
reactant | citric acid | 15 ml | C(CC(O)(C(=O)O)CC(=O)O)(=O)O | C6H8O7
solvent | N,N-dimethylformamide | CN(C=O)C | C3H7NO
product | 5-dimethylamino-N-(6-methylthio-3-pyridazinyl)-1-naphthalenesulphonamide | 0.28 g | CN(C1=C2C=CC=C(C2=CC=C1)S(=O)(=O)NC=1N=NC(=CC1)SC)C | C17H18N4O2S2
